US09289512B2
FMoc-3-(4-aminophenyl)propionic acid 10b (n=2):
3-(4-aminophenyl)propionic acid (250 mg, 1.5 mmol) in a 10 mL flask was dissolved in a mixture of 10% aqueous sodium bicarbonate (0.32 mL) and tetrahydrofuran (2.2 mL) then cooled in an ice/water bath. 9-fluorenylmethyl chloroformate (422 mg, 1.5 mmol) was added in small portions over 3 min. After 4 h the cooling bath was removed. After additional 4 h at room temperature, the reaction was extracted with deionized water (2 mL) and ethyl ether (2 mL) and the aqueous layer was brought to pH 4 with dilute HCl and placed in a refrigerator. After 1 h solid was collected by vacuum filtration and washed with deionized water then dried under vacuum to give 470 mg of product (80% yield). Mass spectrum (M+Na)+ calcd for C24H21NO4, 400.1. found 410.0.

reactant | 3-(4-aminophenyl)propionic acid | 1.5 mmol, 250 mg | NC1=CC=C(C=C1)CCC(=O)O | C9H11NO2
reactant | 9-fluorenylmethyl chloroformate | 1.5 mmol, 422 mg | ClC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C15H11ClO2
solvent | sodium bicarbonate | 0.32 mL | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 2.2 mL | O1CCCC1 | C4H8O
product | FMoc-3-(4-aminophenyl)propionic acid | 470 mg, 80% yield | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)C(C(=O)O)CC1=CC=C(C=C1)N | C24H21NO4
